US08034945B2
(f). N-[2-(3-Amino-benzyloxy)-3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-phenyl]-methanesulfonamide
A mixture of N-[3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-nitro-benzyloxy)-phenyl]-methanesulfonamide (950 mg) and sodium sulfide (350 mg) in ethanol (12 ml) and water (250 μl) was heated at reflux for 2 h. The mixture was diluted with ethyl acetate and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | N-[3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-nitro-benzyloxy)-phenyl]-methanesulfonamide | 950 mg | BrC=1C(=C(C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)NS(=O)(=O)C)OCC1=CC(=CC=C1)[N+](=O)[O-] | C28H29BrN4O6S
reactant | sodium sulfide | 350 mg | [S-2].[Na+].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 250 μl | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3-Amino-benzyloxy)-3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-phenyl]-methanesulfonamide | NC=1C=C(COC2=C(C=C(C=C2Br)C2C(=C(NC=3CC(CC(C23)=O)CCC)C)C#N)NS(=O)(=O)C)C=CC1 | C28H31BrN4O4S
